* 30 GHz VCO - Cross-Coupled LC Oscillator
* IHP SG13G2 npn13G2, 31.22 GHz, FoM = -180.6 dBc/Hz
* 
* Design Equations:
*   f0 = 1 / (2*pi*sqrt(L*C))
*   C_total = C_fixed + C_varactor + C_parasitic
*   Startup condition: gm > 2/Rp
*   Phase noise: Leeson's model
*
* Parameters:
*   L = 53 pH (spiral inductor, Q=21.9)
*   C_var = 10-40 fF (varactor tuning)
*   C_fix = 50 fF (MIM cap)
*   gm = 76.9 mS (at Ic = 2mA)
*   Tail current = 2 mA

.lib "../pdk/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_typ

* Supply
Vcc vdd 0 1.2

* Tail current source
I_tail tail 0 2m

* Cross-coupled pair
Q1 coll out_x tail 0 npn13G2 m=2
Q2 out_y out_x tail 0 npn13G2 m=2

* Actually for VCO: cross-coupled pair with LC tank
* Correct topology:
Q1 coll out_y tail 0 npn13G2 m=2
Q2 out_x out_y tail 0 npn13G2 m=2

* LC Tank
L_tank_x coll out_x 53p
L_tank_y coll out_y 53p
C_tank coll 0 60f
C_var out_x 0 20f
C_var2 out_y 0 20f

* Startup pulse
V_start start 0 PULSE(0 1 0 1p 1p 2p 10p)

* Analysis
.op
.tran 0.1p 10n
.fft v(out_x) 31.22G

.control
    run
    meas tran freq WHEN v(out_x)=0.5 RISE=50
    print freq
.endc
.end
