* 30 GHz Power Amplifier — IHP SG13G2
* Single-ended Class-E PA using npn13G2l HBT
*
* Architecture:
*   - Common-emitter with inductive load
*   - Output matching network for 50 Ohm
*   - Designed for high efficiency at 30 GHz
*
* Ports:
*   IN  : RF input (from VCO)
*   OUT : RF output (to antenna/TX port)
*   VDD, VSS : supply

.subckt pa_classE IN OUT VDD VSS

    * Input matching (series L, shunt C)
    L_match in_int IN 200p
    C_match in_int VSS 100f
    
    * Power transistor (large HBT for PA)
    Q1 coll base_pa emit_pa VSS npn13G2l m=4
    
    * Base bias (class AB, near cutoff)
    R_bias VDD base_pa 5k
    C_couple base_pa in_int 200f
    
    * Load network (inductive + resonant)
    L_load VDD coll 150p
    C_res coll VSS 50f
    
    * Output coupling
    C_out coll OUT 150f
    
    * Shunt capacitor (Class-E operation)
    C_shunt OUT VSS 30f

.ends pa_classE


* =============================================================================
* PA Testbench
* =============================================================================
.lib "../vco/netlist/parameters.inc"

* Supplies
V_vdd vdd 0 2.5
V_vss vss 0 0

* RF Input (30 GHz, 0 dBm)
V_in in 0 dc 0 sin(0 0.1 30G)

* PA Instance
X_pa in out vdd vss pa_classE

* Inline subcircuit definition
.subckt pa_classE IN OUT VDD VSS
    L_match in_int IN 200p
    C_match in_int VSS 100f
    Q1 coll in_int emit_pa VSS npn13G2l m=4
    R_bias VDD in_int 5k
    L_load VDD coll 150p
    C_res coll VSS 50f
    C_out coll OUT 150f
    C_shunt OUT VSS 30f
    R_emit emit_pa VSS 1
.ends

* 50 Ohm load
R_load out vss 50

.control
    * DC operating point
    op
    let pa_dc_power = -v(vdd) * v_vdd#branch
    print pa_dc_power
    
    * Transient
    tran 0.1n 20n
    
    * Measure output power
    meas tran Vout_pp PP v(out)
    print Vout_pp
    
    quit
.endc
.end
